US08440652B2
General Method C was applied to N,N-dimethyl-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-amine (109 mg, 0.38 mmol) and 6-(2-amino-5-bromopyridin-3-yl)-3,4-dihydroisoquinolin-1(2H)-one hydrobromide (125 mg, 0.31 mmol) to afford 6-(2-amino-5-(4-(2-(dimethylamino)propan-2-yl)phenyl)pyridin-3-yl)-3,4-dihydroisoquinolin-1(2H)-one (14 mg, 11% yield) as a white solid after purification by flash chromatography. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.32 (s, 1H), 7.81-8.11 (m, 2H), 7.37-7.79 (m, 7H), 5.87 (s, 2H), 3.41 (m, 2H), 2.85-3.10 (m, 2H), 2.11 (s, 6H), 1.30 (s, 6 H); MS (EI) m/z=401.5 [M+1]+.

reactant | N,N-dimethyl-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-amine | 0.38 mmol, 109 mg | CN(C(C)(C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C17H28BNO2
reactant | 6-(2-amino-5-bromopyridin-3-yl)-3,4-dihydroisoquinolin-1(2H)-one hydrobromide | 0.31 mmol, 125 mg | Br.NC1=NC=C(C=C1C=1C=C2CCNC(C2=CC1)=O)Br
product | 6-(2-amino-5-(4-(2-(dimethylamino)propan-2-yl)phenyl)pyridin-3-yl)-3,4-dihydroisoquinolin-1(2H)-one | 14 mg, 11% yield | NC1=NC=C(C=C1C=1C=C2CCNC(C2=CC1)=O)C1=CC=C(C=C1)C(C)(C)N(C)C | C25H28N4O
